US08835429B2
1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-phenylurea
A procedure analogous to that used for the preparation of 1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-cyclopropylurea was used, using 1-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea as the boronic ester component. Yield=0.088 g, 55%. MS; 459.5, M+H.

reactant | 1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-cyclopropylurea | C12COCC(CC1)N2C2=NC(=NC(=C2)CN(C)C)C2=CC=C(C=C2)NC(=O)NC2CC2 | C23H30N6O2
reactant | 1-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H23BN2O3
product | 1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-phenylurea | C12COCC(CC1)N2C2=NC(=NC(=C2)CN(C)C)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2 | C26H30N6O2
